US20010056194A1
An about 93:7 mixture (34.7 g) of 2,4-bis(1′-ethoxyethoxymethyl)bromobenzene and 2,6-bis(1′-ethoxyethoxymethyl)bromobenzene was dissolved in dehydrated tetrahydrofuran (250 ml) under a nitrogen atmosphere and cooled to −40° C. Thereto was added dropwise a hexane solution (1.57 mol/L, 64.3 ml) of n-butyllithium at a temperature of from −40° C. to −30° C. The mixture was heated to −20° C. and thereto was added dropwise p-fluorobenzaldehyde (12.5 g). The mixture was allowed to warm to 15° C. over 1 hr. The reaction mixture was poured into 20% aqueous ammonium chloride solution (200 ml) and the organic layer was separated. The aqueous layer was extracted with toluene (200 ml). The combined organic layer was washed twice with 20% brine (250 ml) and the solvent was evaporated. To the residue (38.5 g) was added 60% phosphoric acid (300 g) and the resulting solution was stirred at 80-85° C., 9.31-13.3 kPa (70-100 Torr) for 2 hr with heating and cooled to 10° C. The resulting crystals were collected by filtration, washed thoroughly with ethanol and dried to give 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-ylmethanol (20.8 g, 88.7%) as fine yellow crystals.

reactant | 2,4-bis(1′-ethoxyethoxymethyl)bromobenzene | 34.7 g | C(C)OCCOCC1=C(C=CC(=C1)COCCOCC)Br | C16H25BrO4
reactant | 2,6-bis(1′-ethoxyethoxymethyl)bromobenzene | C(C)OCCOCC1=C(C(=CC=C1)COCCOCC)Br | C16H25BrO4
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-fluorobenzaldehyde | 12.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.57 mol/L, 64.3 ml | CCCCCC | C6H14
product | 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-ylmethanol | 20.8 g, 88.7% | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)CO | C15H13FO2
